US04145432
To a solution of diethyl 2-methyl-4-(2-thienyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (940.68 mg) in 99% ethanol (30 ml) was gradually added sodium borohydride (113.5 mg) under stirring and this was further stirred at room temperature for 2 hours. After removal of ethanol, the residue was extracted with ethyl acetate and the extract was washed twice with water and then dried. The solvent was removed from the extract to give a pale yellow oil. The oil was pulverized with n-hexane. The powder was dissolved in ethyl acetate. After collecting by filtration of the insoluble product, to the filtrate was added n-hexane and the mixture was allowed to stand in refrigerator. The appearing crystals were collected by filtration to give pale yellow granules (857.2 mg) of diethyl 2-methyl-4-(2-thienyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate, m.p. 125° to 126° C.

reactant | diethyl 2-methyl-4-(2-thienyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 940.68 mg | CC=1NC(=C(C(C1C(=O)OCC)C=1SC=CC1)C(=O)OCC)C=O | C17H19NO5S
reactant | sodium borohydride | 113.5 mg | [BH4-].[Na+]
reactant | n-hexane | CCCCCC | C6H14
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethyl 2-methyl-4-(2-thienyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 857.2 mg | CC=1NC(=C(C(C1C(=O)OCC)C=1SC=CC1)C(=O)OCC)CO | C17H21NO5S
